US07518905B2
2,3,5,6-Tetrafluoro-4-(S-acetylthio)benzaldehyde (9)
Potassium thioacetate (1.28 g, 11.2 mmol) was added to a solution of pentafluorobenzaldehyde (1.24 mL, 10.2 mmol) in anhydrous DMA (20 mL). After a strong exotherm subsided, the mixture was stirred at rt for 30 min. Acetyl chloride (1.60 mL, 22.4 mmol) was added and the mixture was stirred for another 30 min, then poured into water and extracted twice with ethyl ether. The combined organic extracts were dried (Na2SO4) and evaporated to obtain an orange oil which was chromatographed (silica, CH2Cl2/hexanes, 2:3) affording a pale-yellow solid. Recrystallization from heptane gave white crystals (1.77 g, 69%). mp 86-87° C.; 1H NMR δ 2.53 (s, 3H), 10.30 (s, 1H); 13C NMR δ 30.9, 115.5, 117.2, 145.3, 148.7, 182.9, 187.9; FAB-MS obsd 252.9936, calcd exact mass 252.9946; Anal. Calcd. for C9H4F4O2S: C, 42.86; H, 1.60; S, 12.72. Found: C, 43.00; H, 1.71; S, 12.67.

reactant | Potassium thioacetate | 11.2 mmol, 1.28 g | C(C)(=S)[O-].[K+]
reactant | pentafluorobenzaldehyde | 10.2 mmol, 1.24 mL | FC1=C(C(=C(C(=C1C=O)F)F)F)F | C7HF5O
reactant | Acetyl chloride | 22.4 mmol, 1.60 mL | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | DMA | 20 mL | CC(=O)N(C)C | C4H9NO
product | 2,3,5,6-Tetrafluoro-4-(S-acetylthio)benzaldehyde | 1.77 g, 69% | FC1=C(C=O)C(=C(C(=C1F)SC(C)=O)F)F | C9H4F4O2S
